simulator lang=spectre
global 0

ahdl_include "./dut/programmable_divider_by_n.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=0.35n rise=20p fall=20p width=0.2n period=0.8n
Vdiv (divctrl 0) vsource dc=3
XDUT (clk divctrl out) programmable_divider_by_n

simulatorOptions options evas_profile=balanced

tran tran stop=5.4n maxstep=5p
save clk divctrl out
