simulator lang=spectre
global 0

ahdl_include "./dut/ref_step_clk.va"

// Hidden testbench for the standalone reference-step clock generator.

VDD_SRC (VDD 0) vsource type=dc dc=0.9
VSS_SRC (VSS 0) vsource type=dc dc=0

XREF (VDD VSS CLK) ref_step_clk \
    period_pre=18n period_post=22n t_switch=1.3u tedge=80p


tran tran stop=2.4u maxstep=250p errpreset=conservative
save VDD VSS CLK
